US08729095B2
A N,N-dimethylformamide suspension (406 ml) of 2,5-dichloropyridine-3-amine (81.2 g), palladium acetate (11.2 g), 1,4-bis(diphenylphosphino)butane (42.5 g), ethyl acrylate (109 ml), diisopropylethylamine (174 ml) and tetrabutylammonium bromide (161 g) was stirred at 140° C. for 30 hours. After the reaction solution was brought back to room temperature, ethyl acetate and water were added and the solution was separated, and the aqueous layer was extracted with ethyl acetate. The combined organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. To the residue was added a 50% ethyl acetate-hexane mixed solvent, followed by stirring. The insolubles were filtered off, and washed with ethyl acetate, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to afford ethyl (2E)-3-(3-amino-5-chloropyridin-2-yl)acrylate (50.6 g).

reactant | 2,5-dichloropyridine-3-amine | 81.2 g | ClC1=NC=C(C=C1N)Cl | C5H4Cl2N2
reactant | 1,4-bis(diphenylphosphino)butane | 42.5 g | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
reactant | ethyl acrylate | 109 ml | C(C=C)(=O)OCC | C5H8O2
reactant | diisopropylethylamine | 174 ml | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | tetrabutylammonium bromide | 161 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 11.2 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 406 ml | CN(C=O)C | C3H7NO
product | ethyl (2E)-3-(3-amino-5-chloropyridin-2-yl)acrylate | 50.6 g | NC=1C(=NC=C(C1)Cl)/C=C/C(=O)OCC | C10H11ClN2O2
